US07601674B2
N-[2-(3-Methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide (8.0 g, 34 mmol) and triethylamine (8.3 g, 82 mmol) are dissolved in dichloromethane (80 ml). Bis(trichloromethyl) carbonate (triphosgene, 4.0 g, 14 mmol) in dichloromethane (40 ml) is added at +5° C. The mixture is stirred for 4 hours at +5° C. and then cooled to −78° C. A solution of titanium tetrachloride (7.0 g, 38 mmol) in dichloromethane (70 ml) is added and the mixture is stirred for 2 hours at −40° C. 3-Phenylpropionaldehyde (4.8 g, 36 mmol) in dichloromethane (50 ml) is added dropwise and the mixture is stirred for 17 hours at room temperature. The mixture is hydrolysed with 5N HCl (25 ml), stirred 30 minutes at room temperature and washed with water. After evaporation of the organic layer the residue is submitted to flash-chromatography (ethyl acetate/hexane 6:3) to give 2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxyphenyl)-ethyl]-4-phenyl-butyramide (Compound E1.01).

reactant | N-[2-(3-Methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide | 34 mmol, 8.0 g | COC=1C=C(C=CC1OCC#C)CCNC=O | C13H15NO3
reactant | triethylamine | 82 mmol, 8.3 g | C(C)N(CC)CC | C6H15N
reactant | Bis(trichloromethyl) carbonate | 14 mmol, 4.0 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 3-Phenylpropionaldehyde | 36 mmol, 4.8 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | HCl | 5N, 25 ml | Cl | ClH
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 38 mmol, 7.0 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxyphenyl)-ethyl]-4-phenyl-butyramide | OC(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)CCC1=CC=CC=C1 | C22H25NO4
